Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Bee Pollen / grass poll-perennial rye,std / Januvia
 
Attending: ___.
 
Chief Complaint:
History gallstone pancreatitis complicated by necrotizing 
pancreatitis
 
Major Surgical or Invasive Procedure:
___
1. Laparoscopic subtotal cholecystectomy

 
History of Present Illness:
Mr. ___ is a ___ with a PMH of DM2, schizoaffective d/o, 
and recent episode of acute pancreatitis c/b prolonged 
hospitalization notable for acute respiratory failure and 
malignant catatonia, s/p ERCPx2 and stent placement, now 
presenting directly to the ___ Surgery service at ___ 
for electivre laproscopic cholecystectomy to prevent reccurance 
of his pancreatitis.

The patient initially presented to ___ ___ 
w/ nausea 
vomitting and abdominal pain and determined to have acute 
pancreatitis. He had an abd US that showed normal gallbladder, 
no biliary dilitation. GI was called to see the patient and an 
ERCP was done showing edematous duodenum with 
a smooth stricture, thought to be from pancreatic edema from 
pancreatitis. A stent was placed and dark sludge was seen.  The 
patient's Tbili improved to 3 but then rose to 7.7 on ___. A 
repeat ERCP was done, which showed displacement of plastic stent 
and a ___ CBD stricture, so a metallic stent was placed. 
Later in his hospital course, he was noted to have worsening 
stridor, so was intubated.  In addition, his medication changes 
triggered malignant catatonia, subsequently treated w/ a regimen 
of ECT ___.  The pt was extubated and re-intubated several 
times, following episodes of stridor, and eventualy determined 
to be aspirating causing aspiration pneumonia.  His respiratory 
culture returned positive for MRSA.  It was felt that the 
patient's aspiration event was likely secondary to airway edema 
from multiple intubations, and that his edema has healed over 
time with subsequent improvement in ability to protect his 
airway. 

A CT Abdomen during hospitalization revealed massive 
splenomegaly concerning for sinitral portal hypertension. 
Hepatobiliary surgery and Hepatology were consulted and felt 
that splenectomy was not indicated at this time. They recommend 
follow up with Dr. ___ with follow up CT abd/pelvis and 
elective CCY. A CT pancreatic protocol was performed on ___ to 
evaluate the stent. The stent appeared occluded but due to the 
patient's lack of symptoms and normal LFTs, it was decided to 
defer stent removal.  He was discharged from ___ on ___.

The pt was seen by Dr. ___ on ___ and reported no 
abdominal pain or issues eating.  It was determited that Mr. 
___ would undergo an elective laprscopic cholecystectomy to 
prevent recurrence of his pancreatitis.
  
 
Past Medical History:
Schizoaffective disorder
DM2 
Asthma
OSA
HLD

 
Social History:
___
Family History:
Cancer 
CAD 

 
Physical Exam:
On Discharge:
Vitals: T: 98.8, BP: 113/65, HR: 90, RR: 18, SpO2: 98% on RA
Gen: NAD, A+Ox3
CV: RRR, no M/R/G
Pulm: CTAB, no wheezes, ronchi, or rales
Abd: Soft, NT, min distended. JP serosanguinous.
Extrem: WWP
 
Pertinent Results:
___ 08:25PM   WBC-6.9 RBC-3.92* HGB-10.1* HCT-31.3* MCV-80* 
MCH-25.8* MCHC-32.3 RDW-15.3
___ 08:25PM   PLT COUNT-178
___ 08:22AM BLOOD WBC-5.3 RBC-3.90* Hgb-9.9* Hct-31.8* 
MCV-81* MCH-25.5* MCHC-31.3 RDW-15.5 Plt ___
___ 08:22AM BLOOD Glucose-200* UreaN-6 Creat-0.8 Na-138 
K-4.1 Cl-100 HCO3-28 AnGap-14
___ 12:21AM BLOOD ALT-20 AST-30 AlkPhos-69 TotBili-0.3
___ 12:21AM BLOOD Calcium-8.2* Phos-5.3* Mg-1.3*
 
Brief Hospital Course:
___ dulcolax, senna/colace, +f/+bm. metformin, lantus 
started. Keep JP  
___ Hct 31.8<-28.9 stable, oxy increase to Q3H, d/c foley, 
___ consult  
___ Hct 31.3->27.4->27.7->28.9.  
___ OR/Admission to ICU; Bolusesx3 ( total 2); 12.5g 
Albuminx1  

Mr. ___ received a laparoscopic subtotal cholecystectomy for 
a history of gallstone c/b necrotizing pancreatitis with Dr. 
___ on ___. Please see Dr. ___ report 
for details on the procedure. For hemodynamic monitoring, the 
patient was transferred to the SICU postoperatively. 

In the ICU, the patient received boluses of crystaloid fluid and 
albumin. He was NPO on POD#0 but was advanced to a clear liquid 
diet on POD#1 that was steadily advanced to a regular diabetic 
diet on POD#2. His hematocrit 31.3->27.4->27.7->28.9 on ___ 
and remained stable to 31.8 on ___. He tolerated a pain 
regimen of PO oxycodone but required an increase in the 
frequency of dosage to every three hours. His foley was 
discontinued on ___. He had flatus on ___ but did not have a 
bowel movement until ___ when he was on senna, colace, and 
dulcolax PR. On ___, his home insulin regimen was started 
which led to improved control of his blood sugars. Physical 
therapy worked with the patient and recommended continuation of 
rehabilitation. 

By the day of discharge on POD#3, Mr. ___ was tolerating a 
regular diabetic diet, with pain well controlled on a PO 
regimen, was out of bed to the chair, making good amounts of 
urine, with return of bowel function. He expressed a willingness 
to return to his rehabilitation/nursing center.

 
Medications on Admission:
amantadine 100mg', lantus 20u qpm, ISS, ativan 2mg q8hrs, 
metformin 1000mg'', omeprazole 20mg', tylenol prn, dulcolax prn, 
coalce, senna, loratidine 
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Amantadine 100 MG PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
5. Glucose Gel 15 g PO PRN hypoglycemia protocol 
6. Heparin 5000 UNIT SC TID 
7. Glargine 20 Units Bedtime
Insulin SC Sliding Scale using REG Insulin
8. Lorazepam 2 mg PO TID 
9. MetFORMIN (Glucophage) 1000 mg PO BID 
10. Omeprazole 20 mg PO DAILY 
11. OxycoDONE Liquid ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg/5 mL 5 - 10 ml by mouth Q3H Refills:*0
12. Senna 8.6 mg PO BID 
13. Bisacodyl ___AILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Hx Gallstone complicated by necrotizing pancreatitis
2. Laparoscopic subtotal cholecystectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the surgery service at ___ for 
laparoscopic subtotal removal of your gallbladder. You have done 
well in the post operative period and are now safe to return 
home to complete your recovery with the following instructions:
.
Please call Dr. ___ office at ___ if you have any 
questions or concerns.
.
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you ___ with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please ___ with your surgeon Dr. ___, Dr. ___ 
___ (GI/ERCP, ___ for CBD stent removal, and your 
Primary Care Provider (PCP) as advised.
.
Incision Care:
*Change dressing daily and prn.
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your ___ appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your ___ 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
.
JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain.  
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character or looks 
bilious.
*Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
 
Followup Instructions:
___